US09340546B2
4-chloro-3-nitro-pyridine (1 g, 6.307 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (2.145 g, 6.938 mmol) and PdCl2(PPh3)2 (221.4 mg, 0.3154 mmol) in DME (20.00 mL) were degassed using 3×vacuum/nitrogen cycles. Na2CO3 (9.460 mL of 2 M, 18.92 mmol) was added followed by further degassing and the reaction heated at 80° C. for 18 hours. The reaction was cooled to ambient temperature and diluted with EtOAc/water. The layers were separated and the aqueous layer was extracted with EtOAc (×3). The combined organic extracts were washed with brine (×1), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 120 g column, eluting with 0 to 70% EtOAc/Petroleum Ether, dry loaded) to give tert-butyl 3′-nitro-5,6-dihydro-[4,4′-bipyridine]-1(2H)-carboxylate as a pale yellow solid (884 mg, 46% Yield). MS (ES Na+) 328.1.

reactant | 4-chloro-3-nitro-pyridine | 6.307 mmol, 1 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 6.938 mmol, 2.145 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | Na2CO3 | 18.92 mmol, 2 M, 9.460 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20.00 mL | COCCOC | C4H10O2
catalyst | PdCl2(PPh3)2 | 0.3154 mmol, 221.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 3′-nitro-5,6-dihydro-[4,4′-bipyridine]-1(2H)-carboxylate | 884 mg, 46% Yield | [N+](=O)([O-])C=1C=NC=CC1C1=CCN(CC1)C(=O)OC(C)(C)C | C15H19N3O4
